US07888349B2
Potassium tert-butoxide (77.2 mL of a 1 M solution in THF) was added to a solution of tert-butyl 3-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate (24.12 g, 64.34 mmol, prepared according to the methods described in Example 6 Parts A through C) in THF (250 mL), and the reaction was stirred overnight at ambient temperature. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluting with 2N ammonia in methanol/dichloromethane in a gradient from 0:100 to 15:85) to provide 9.1 g of tert-butyl 11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate.

reactant | Potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | tert-butyl 3-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCNC(OC(C)(C)C)=O | C19H23ClN4O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | tert-butyl 11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | 9.1 g | C1=C2C3=C(C=NC2=CC=C1)N=C1N3CCCN(C1)C(=O)OC(C)(C)C | C19H22N4O2
